US09079866B2
5-{4-[2-(Cyclohexyloxy)pyridin-3-yl]-2-fluorophenyl}pyrazin-2-amine
The title compound was prepared using methods analogous to those described in Example 369 using (2-(cyclohexyloxy)pyridin-3-yl)boronic acid and 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine in Step B. MS (ESI): mass calcd. for C21H21FN4O, 364.17; m/z found, 365.2 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.64-8.57 (m, 1H), 8.18-8.10 (m, 2H), 8.00-7.92 (m, 1H), 7.70-7.63 (m, 1H), 7.52-7.43 (m, 2H), 6.94 (dd, J=5.0, 7.4, 1H), 5.26-5.16 (m, 1H), 4.66 (s, 2H), 2.05-1.91 (m, 2H), 1.82-1.68 (m, 2H), 1.66-1.24 (m, 6H).

reactant | (2-(cyclohexyloxy)pyridin-3-yl)boronic acid | C1(CCCCC1)OC1=NC=CC=C1B(O)O | C11H16BNO3
reactant | 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7BrFN3
product | 5-{4-[2-(Cyclohexyloxy)pyridin-3-yl]-2-fluorophenyl}pyrazin-2-amine | C1(CCCCC1)OC1=NC=CC=C1C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C21H21FN4O
